US04826866
3-(Cycloheptylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1]
A solution of 11.6 g (0.0619 mole) of 4-cycloheptyl-3-thiosemicarbazide in 100 mL of tetrahydrofuran was stirred under nitrogen atmosphere while 10.2 g (0.062 mole) of ethyl 2-chloroacetoacetate was added. The reaction mixture quickly turned yellow and slowly became exothermic to boiling. The reaction mixture was refluxed for 1.5 hr, filtered (to remove amorphous sulfur), and concentrated in vacuo to give yellow granular solid, 19.7 g. Several attempts at recrystallization of the material from various solvents resulted in 4 fractions all having melting points in the range of 157°-160° C. These were combined (12 g) and recrystallized from methyl isobutyl ketone, after treating with charcoal, to give 10.3 g of product. After drying at 82° C. under vacuum for 15 hr the weight was reduced to 9.8 g with mp 155°-161° C.

reactant | 4-cycloheptyl-3-thiosemicarbazide | 0.0619 mole, 11.6 g | C1(CCCCCC1)NC(NN)=S | C8H17N3S
reactant | ethyl 2-chloroacetoacetate | 0.062 mole, 10.2 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-(Cycloheptylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 10.3 g | Cl.C1(CCCCCC1)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C14H23N3O2.ClH/c1-3-19-14(18)12-10(2)16-17-13(12)15-11-8-6-4-5-7-9-11;/h11H,3-9H2,1-2H3,(H2,15,16,17);1H
